US07951949B2
To a solution of tert-butyl [(3EZ)-14-methyl-8-[methyl(methylsulfonyl)amino]-13-oxo-12-oxa-7-azatricyclo[14.3.1.16,10]henicosa-1(20),3,6(21),7,9,16,18-heptaen-14-yl]carbamate (22.5 mg, 0.042 mmol) (Intermediate V.11.c.1) in degassed THF (2.5 mL) was added palladium on carbon (10%, 3 mg). The reaction was stirred under a hydrogen atmosphere (1 atm) for 1 h and filtered through celite. Concentration gave tert-butyl [14-methyl-8-[methyl(methylsulfonyl)amino]-13-oxo-12-oxa-7-azatricyclo[14.3.1.16,10]henicosa-1(20),6(21),7,9,16,18-hexaen-14-yl]carbamate. MS: 532.0 (M+1) ES+

reactant | tert-butyl [(3EZ)-14-methyl-8-[methyl(methylsulfonyl)amino]-13-oxo-12-oxa-7-azatricyclo[14.3.1.16,10]henicosa-1(20),3,6(21),7,9,16,18-heptaen-14-yl]carbamate | 0.042 mmol, 22.5 mg | CC1(C(OCC2=CC(=NC(CC=CCC=3C=CC=C(C1)C3)=C2)N(S(=O)(=O)C)C)=O)NC(OC(C)(C)C)=O | C27H35N3O6S
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 3 mg | [Pd] | Pd
product | tert-butyl [14-methyl-8-[methyl(methylsulfonyl)amino]-13-oxo-12-oxa-7-azatricyclo[14.3.1.16,10]henicosa-1(20),6(21),7,9,16,18-hexaen-14-yl]carbamate | CC1(C(OCC2=CC(=NC(CCCCC=3C=CC=C(C1)C3)=C2)N(S(=O)(=O)C)C)=O)NC(OC(C)(C)C)=O | C27H37N3O6S
